US05767131
A mixture of 2-cyanoethyl acetoacetate (5.00 g, 32.2 mmol), 1,4-benzodioxan-6-carboxaldehyde (5.29 g, 32.2 mmol), piperidine (137 mg, 1.61 mmol) and acetic acid (97 mg, 1.6 mmol) in 70 ml of 2-propanol was stirred at r.t. for 48 hrs. After evaporation of solvent, the product was purified by chromatography (SiO2, AcOEt: Hexane, 60:10). 2-[(3,4-Ethylenedioxyphenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester was obtained as a yellowish oil (2.64 g, 27% yield).

reactant | 2-cyanoethyl acetoacetate | 32.2 mmol, 5.00 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
reactant | 1,4-benzodioxan-6-carboxaldehyde | 32.2 mmol, 5.29 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | piperidine | 1.61 mmol, 137 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.6 mmol, 97 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 70 ml | CC(C)O | C3H8O
product | 2-[(3,4-Ethylenedioxyphenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester | C(#N)CCOC(C(C(C)=O)=CC1=CC2=C(C=C1)OCCO2)=O | C16H15NO5
